US07642264B2
5-{4-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid amide
To a cooled and stirred solution of 5-{4-[4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid tert-butyl amide (0.25 g) in dichloromethane (6 mL) was added TFA (6 mL) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and purified by flash chromatography (heptane/ethyl acetate) and crystallization (THF/hexane) to yield the title compound as a white solid (0.13 g, 26%). MS (ISN) 495.2 [(M−H)−]; mp 290° C.

reactant | 5-{4-[4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid tert-butyl amide | 0.25 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C(F)(F)F | C24H20ClF3N4O2S2
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 5-{4-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid amide | 0.13 g, 26% | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=CC(=NC=C1)C1=CC=C(S1)S(=O)(=O)N | C20H12ClF3N4O2S2
